US05068272
b) (R)-4-(oxiranylmethoxy)-benzonitrile
A solution of 2.71 g of (2S)-1-(4-cyanophenoxy)-3-methane-sulfonyloxypropan-2-ol in 40 ml of 1,2-dimethoxyethane was stirred with 1.0 g of powdered sodium hydroxide at room temperature for 22 h. 10 ml of saturated sodium chloride solution was added, and the mixture was extracted twice with ether. Washing with 5% sodium hydrogen carbonate, drying over magnesium sulfate, filtration and evaporation gave 1.76 g of crystalline material, m.p. 67.5° C., [α]D20 -14.7° (c=1, acetone).

reactant | (2S)-1-(4-cyanophenoxy)-3-methane-sulfonyloxypropan-2-ol | 2.71 g | C(#N)C1=CC=C(OC[C@@H](COS(=O)(=O)C)O)C=C1 | C11H13NO5S
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | sodium chloride | 10 ml | [Cl-].[Na+]
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
product | (R)-4-(oxiranylmethoxy)-benzonitrile | 1.76 g | O1[C@H](C1)COC1=CC=C(C#N)C=C1 | C10H9NO2
